US08809536B2
(S*)-1-[(S)-1-(2,3-Dihydrobenzo[1,4]dioxin-2-yl)methyl]-3-(3-methoxyphenyl)piperidine
(R)-2,3-Dihydrobenzo[1,4]dioxin-2-yl-[(S*)-3-(3-methoxyphenyl)piperidin-1-yl]-methanone (21 mg, 0.059 mmol) was treated with BH3THF according to the above general procedure. Flash chromatography gave 7.0 mg of the title compound.

reactant | (R)-2,3-Dihydrobenzo[1,4]dioxin-2-yl-[(S*)-3-(3-methoxyphenyl)piperidin-1-yl]-methanone | 0.059 mmol, 21 mg | O1[C@H](COC2=C1C=CC=C2)C(=O)N2C[C@@H](CCC2)C2=CC(=CC=C2)OC | C21H23NO4
reactant | BH3THF | B.C1CCOC1
product | (S*)-1-[(S)-1-(2,3-Dihydrobenzo[1,4]dioxin-2-yl)methyl]-3-(3-methoxyphenyl)piperidine | 7.0 mg | O1[C@H](COC2=C1C=CC=C2)CN2C[C@@H](CCC2)C2=CC(=CC=C2)OC | C21H25NO3
